US08217065B2
F. Methyl 3-(4-{6-[5-(4-methoxyphenyl)-[1,3,4]oxadiazol-2-yl]-1H-indol-2-yl}-3,5-dimethylphenyl)-propionate
A mixture of methyl 3-(4-{6-[N′-(4-methoxybenzoyl) -hydrazinocarbonyl]-1H-indol-2-yl}-3,5-dimethyl-phenyl)-propionate (220 mg, 440 μmol) and Burgess reagent (210 mg, 880 μmol) in THF (10 mL) was heated in a microwave apparatus at 150° C. for 30 min. The solvent was removed under reduced pressure, and the residue chromatographed using a 30-70% gradient of heptane/ethyl acetate to afford the title compound.

reactant | methyl 3-(4-{6-[N′-(4-methoxybenzoyl) -hydrazinocarbonyl]-1H-indol-2-yl}-3,5-dimethyl-phenyl)-propionate | 440 μmol, 220 mg | COC1=CC=C(C(=O)NNC(=O)C2=CC=C3C=C(NC3=C2)C2=C(C=C(C=C2C)CCC(=O)OC)C)C=C1 | C29H29N3O5
reactant | Burgess reagent | 880 μmol, 210 mg | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Methyl 3-(4-{6-[5-(4-methoxyphenyl)-[1,3,4]oxadiazol-2-yl]-1H-indol-2-yl}-3,5-dimethylphenyl)-propionate | COC1=CC=C(C=C1)C1=NN=C(O1)C1=CC=C2C=C(NC2=C1)C1=C(C=C(C=C1C)CCC(=O)OC)C | C29H27N3O4
